US07790714B2
(S)-2-Amino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-4-methyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl}-propionic acid methyl ester hydrochloride (7.25 mmol) was suspended in 120 mL of dichloroethane and paraformaldehyde (9.4 mmol) and TFA (20 mL) added. The resulting mixture heated at 70° C. for 5 h. The mixture was concentrated and dissolved in DCM. Triethylamine (21.8 mmol) and di-tert-butyl dicarbonate (10.9 mmol) were added and the mixture stirred at room temperature for 3 h. The mixture was concentrated and purified over silica gel (hexnaes-EtOAc) to provide (3S,7S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester (4.2 g). NMR (400 MHz, CDCl3): 7.51 (d, 1H), 7.44 (d, 1H), 7.30 (m, 2H), 7.23 (m, 1H), 6.90 (m, 2H), 6.82-6.71 (m, 2H), 5.62 (s, 1H), 5.16-4.78 (m, 1H), 4.98 (s, 2H), 4.68-4.34 (m, 2H), 3.61 (s, 3H), 3.23 (s, 3H), 3.22-3.11 (m, 2H), 1.48 (d, 9H).

reactant | (S)-2-Amino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-4-methyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl}-propionic acid methyl ester hydrochloride | 7.25 mmol | Cl.COC([C@H](CC=1C=CC2=C(N(C([C@@H](O2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)=O)C)C1)N)=O
reactant | paraformaldehyde | 9.4 mmol | C=O | CH2O
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Triethylamine | 21.8 mmol | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 10.9 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloroethane | 120 mL | ClC(C)Cl | C2H4Cl2
product | (3S,7S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester | 4.2 g | COC(=O)[C@H]1N(CC=2C=C3O[C@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C | C32H32Cl2N2O7
